US06706717B2
C. 6-Bromo-N-(2-thiazolyl)pyridin-2-amine
A suspension of 2-bromo-6-thioureidopyridine (3 g, 12.92 mmol) and chloroacetaldehyde (3.28 mL, 25.85 mmol) in ethanol (27 mL) and water (7 mL) was heated at reflux for 4.75 h. The solution was concentrated in vacuo and the residue was diluted with 1 N aqueous NaOH solution at 0° C., stirred for 10 min, and the pH was then adjusted to 8.5 by addition of 6 N aqueous HCl solution. The precipitate was collected by filtration, washed several times with water and dried in vacuo over P2O5 to obtain the titled compound (3.17 g, 96%) as a light yellow solid.

reactant | 2-bromo-6-thioureidopyridine | 12.92 mmol, 3 g | BrC1=NC(=CC=C1)NC(=S)N | C6H6BrN3S
reactant | chloroacetaldehyde | 25.85 mmol, 3.28 mL | ClCC=O | C2H3ClO
solvent | ethanol | 27 mL | C(C)O | C2H6O
solvent | water | 7 mL | O | H2O
product | 6-Bromo-N-(2-thiazolyl)pyridin-2-amine | 3.17 g, 96% | BrC1=CC=CC(=N1)NC=1SC=CN1 | C8H6BrN3S
